Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
LEFT HEART CATHETERIZATION WITH CORONARY ANGIOGRAM

 
History of Present Illness:
___ male with history of hypertension, hyperlipidemia,
type 2 diabetes who presented to the ___ with 2
episodes of non-exertional chest discomfort over the preceding 
24
hours with positive stress test at ___.  

Patient states that starting one day prior to admission around 3
AM he had an episode of midsternal chest pain that awoke him 
from
sleep and that lasted approximately 30 minutes and self resolved
and he had a repeat episode around 2:30 ___ on ___ after which
she presented to the ___ emergency department. Reportedly
patient had negative troponin and nonspecific T-wave 
flattening's
on EKG but his stress test showed ST depressions for which he 
was
transferred to ___ for cardiology eval.  

Patient notes pain was subcentral, nonradiating, ___. Denies
shortness of breath, no nausea, vomiting or diaphoresis. He also
had left arm tingling at that time. Pain in the afternoon 
started
while he was working, lasted approximately 15 minutes. This pain
was less severe, ___ and was intermittent.  
 He presented to the ___ at the advice of his primary
physician.  

 In ___ emergency room, chest x-ray showed no acut
cardiopulmonary disease. Lab results showed normal renal
function, negative troponins x2. He has had no further 
recurrence
of chestpain. He was arranged for an exercise tolerance test
which  was done this AM and is as follows:  
  He completed 10 minutes 30 seconds of ___ protocol,
representing an average exercise tolerance for age. Blood
pressure 142/82, increased to 172/82. Heart rate increased from
80 up to 168. He had no chest pain during the test. However, he 
did have 2-3 mm of downsloping ST depressions in the
inferolateral leads and 1 mm of elevation in AVR. Changes 
started
at 3 minutes of exercise and resolved by 8 minutes of recovery.
Transferred to ___ for possible cath. 

 In the ___ ED initial vitals were: 98.5 76 144/89 18 99% RA.
EKG at rest did not show any ST changes. Labs were notable for
BMP WNL, CBC WNL, Ca, Phos WNL, TropT < 0.01. Patient received
ASA 324mg x1.   
 Vitals on transfer: 98.7 75 145/90 20 97% RA  

 On the floor patient reports above history. Denies current CP,
SOB, palpitations. No new complaints. 

 
Past Medical History:
 1. CARDIAC RISK FACTORS  
 - Diabetes type II  
 - Hypertension  
 - Dyslipidemia  
 2. CARDIAC HISTORY  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY: none  
 
Social History:
___
Family History:
FAMILY HISTORY:  
Maternal grandfather had an MI. Mother had a stroke.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 98.1  124/82  85  16  95%RA  
GENERAL: WDWN middle aged male in NAD. Oriented x3. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: JVP 8cm 
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No
thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM:
========================
VITALS: 98.4 PO 123/71 R Lying HR 82 RR 16 O2 95 RA 
I/Os: 240 cc/ n/a
WEIGHT:  92.5 kg
WEIGHT ON ADMISSION:  93.1 kg

PHYSICAL EXAM: 
GENERAL: WDWN middle aged male in NAD. Oriented x3. Mood, affect
appropriate.
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: JVP < 10 cm at 90 deg 
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No
thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND.  
EXTREMITIES: No c/c/e. R wrist puncture site well healed, no 
bleeding, 2+ radial pulse.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
ADMISSION LABS:
___ 04:00PM BLOOD WBC-8.9 RBC-5.05 Hgb-14.9 Hct-44.5 MCV-88 
MCH-29.5 MCHC-33.5 RDW-11.5 RDWSD-37.2 Plt ___
___ 04:00PM BLOOD Neuts-44.8 ___ Monos-7.0 Eos-2.3 
Baso-0.5 Im ___ AbsNeut-3.98 AbsLymp-3.97* AbsMono-0.62 
AbsEos-0.20 AbsBaso-0.04
___ 08:00AM BLOOD ___ PTT-29.6 ___
___ 04:00PM BLOOD Glucose-114* UreaN-17 Creat-1.0 Na-140 
K-5.0 Cl-101 HCO3-24 AnGap-15
___ 04:00PM BLOOD cTropnT-<0.01
___ 08:00AM BLOOD CK-MB-2 cTropnT-<0.01
___ 04:00PM BLOOD Calcium-9.6 Phos-3.7

DISCHARGE LABS:
___ 08:10AM BLOOD WBC-7.7 RBC-5.15 Hgb-15.1 Hct-45.3 MCV-88 
MCH-29.3 MCHC-33.3 RDW-11.4 RDWSD-36.6 Plt ___
___ 08:10AM BLOOD Glucose-146* UreaN-18 Creat-1.1 Na-139 
K-4.5 Cl-98 HCO3-25 AnGap-16
___ 08:10AM BLOOD Calcium-9.4 Phos-4.2 Mg-2.0

IMAGING RESULTS:
___ CORONARY ANGIOGRAM:
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal.
* Left Anterior Descending
The LAD is normal
* Circumflex
The Circumflex is normal.
* Right Coronary Artery
The RCA has mild luminal irregularities.

 
Brief Hospital Course:
___ w/ PMH HTN, HLD, DM2 who presented to ___ 
following
2 episodes non-exertional chest pain found to have 2-3 mm of
downsloping ST depressions in the inferolateral leads and 1 mm 
of
elevation in AVR on stress test, transferred ___ on ___ for 
cardiac catheterization, which found no occlusions requiring 
intervention. He was discharged on optimal medical management.

#UNSTABLE ANGINA
#ST DEPRESSIONS ON EKG: Initially presented as unstable angina. 
At an outside hospital he had 2-3 mm of downsloping ST 
depressions in the inferolateral leads and 1 mm of elevation in 
AVR on stress test. Trops negative at both the outside hospital 
and here at ___, EKG at rest negative. During his hospital 
course he had ___ brief (<5 min) episodes of mild chest 
discomfort, which resolved. He underwent coronary angiography 
which was only remarkable for mild RCA luminal irregularities 
but otherwise, no hemodynamically significant CAD. He should 
continue his aspirin 81 daily, atorvastatin 40 mg (prev on 
simvastatin), metoprolol succinate 50 mg daily, and sublingual 
nitro as needed if chest pain recurs. Given his age and no 
intervention, he does not require cardiology follow up at this 
time; If in the future he requires cardiology follow up, he can 
see ___, MD who was his cardiologist during this 
admission. 

#HTN 
- irbesartan 150mg

#DMII 
- hold metformin 
- HISS 

TRANSITIONAL ISSUES:
[ ] Patient was started on Aspirin 81mg, Atorvastatin 40mg, 
Metoprolol 50mg XL, and as needed sublingual nitro.
[ ] Check blood pressure and heart rates to ensure appropriate 
metoprolol dose. 
[ ] Check LFTs as outpatient given switch to atorvastatin this 
admission.

# CODE STATUS: Full
# CONTACT: ___ (wife) home: ___ cell: 
___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. irbesartan 150 mg oral QHS 
2. Simvastatin 20 mg PO QHS 
3. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
3.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually q5min PRN Disp 
#*1 Packet Refills:*0 
5.  irbesartan 150 mg oral QHS  
6.  MetFORMIN (Glucophage) 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
STABLE ANGINA

SECONDARY DIAGNOSIS
===================
HYPERTENSION

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had chest pain that brought you 
to the hospital. You were then transferred to ___ 
___ for further work up.

What happened while I was in the hospital?  
-You had a "stress test", to test your heart, and the doctors 
thought there might be a blockage in part of your heart
-You had a procedure performed here where heart doctors took 
pictures of your heart using special dyes, but they did not see 
anything that required fixing.
-You were switched onto new medications that would be helpful 
for your heart's health.

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up with your primary care doctor.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 Your ___ Healthcare Team  

 
Followup Instructions:
___